US04758578
3-(2-Chlorophenyl)-1,2,4-thiadiazole-5-sulfenamide
A solution of 25 g of 5-mercapto-3-(2-chlorophenyl)-1,2,4-thiadiazole in 500 ml of 4% sodium hydroxide and a solution prepared by diluting 238 ml of 5.25% NaOCl to 500 ml with water were added dropwise simultaneously to 1020 ml of ammonium hydroxide solution while maintaining the mixture at 0° C. with an ice/methanol bath. The resulting mixture was stirred for 15 minutes and the solids were collected, washed with water and dried under high vacuum (P2O5) to give 15.4 g of solid, m.p. 143°-145°.

reactant | 5-mercapto-3-(2-chlorophenyl)-1,2,4-thiadiazole | 25 g | SC1=NC(=NS1)C1=C(C=CC=C1)Cl | C8H5ClN2S2
reactant | NaOCl | 238 ml | [O-]Cl.[Na+]
reactant | ammonium hydroxide | 1020 ml | [OH-].[NH4+]
solvent | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(2-Chlorophenyl)-1,2,4-thiadiazole-5-sulfenamide | 15.4 g | ClC1=C(C=CC=C1)C1=NSC(=N1)SN | C8H6ClN3S2
